US08440689B2
C. 6-((1R,2S)-2-Aminocyclohexylamino)-7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one
A suspension of tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexyl-amino)-7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate (2.148 g, 3.94 mmol) in IPA (21 mL) was heated to 70° C. at which point 2M HCl aq (9.86 mL, 19.72 mmol) was added. The reaction mixture was heated at 65° C. for approximately 3 h, cooled in an ice water bath for 1 h, and then filtered. The solids were rinsed with cold IPA (15 mL) and then dried in a 50° C. vacuum oven overnight to give an HCL salt of the title compound as a light yellow solid (1.404 g, 3.37 mmol) having 1.5-2 eq of associated water (by 1H NMR). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.46 (d, J=7.07 Hz, 2H), 1.57-1.76 (m, 3H), 1.76-2.04 (m, 3H), 3.31 (s, 3H), 3.67 (br s, 1H), 3.90 (s, 3H), 4.39 (d, J=2.53 Hz, 2H), 4.41-4.60 (m, 1H), 6.75 (d, J=6.57 Hz, 1H), 7.96 (br s, 3H), 8.22-8.31 (m, 1H), 8.34 (s, 1H), 8.84 (s, 1H). [M+H] calc'd for C17H21FN6O, 345. found 345.

reactant | tert-butyl 6-((1R,2S)-2-(tert-butoxycarbonylamino)cyclohexyl-amino)-7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-3-oxo-1H-pyrrolo[3,4-c]pyridine-2(3H)-carboxylate | 3.94 mmol, 2.148 g | C(C)(C)(C)OC(=O)N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C=1C=NN(C1)C)C(N(C2)C(=O)OC(C)(C)C)=O)F | C27H37FN6O5
reactant | HCl | 19.72 mmol, 2M, 9.86 mL | Cl | ClH
solvent | IPA | 21 mL | CC(C)O | C3H8O
product | 6-((1R,2S)-2-Aminocyclohexylamino)-7-fluoro-4-(1-methyl-1H-pyrazol-4-yl)-1H-pyrrolo[3,4-c]pyridin-3(2H)-one | 3.37 mmol, 1.404 g | N[C@@H]1[C@@H](CCCC1)NC1=C(C2=C(C(=N1)C=1C=NN(C1)C)C(NC2)=O)F | C17H21FN6O
